US07618967B2
(R)-3-(1H-indol-3-yl)-indan-1-one, methyl amine (5 mL 2M in THF) and 1 mL tetraethoxy silane in 10 mL methanol were stirred 11 minutes at 150° C. under microwave irradiation using the Emry Optimizer™ instrument. PtO2 (10 mg) was added and the reaction mixture was stirred under 1 atm. hydrogen over night at room temperature, filtered and concentrated in vacuo. [(1S,3R)-3-(1H-Indol-3-yl)-indan-1-yl]-methyl-amine was isolated in 66% yield after flash chromatography (ethyl acetate, methanol, triethylamine, silica gel).

reactant | (R)-3-(1H-indol-3-yl)-indan-1-one | N1C=C(C2=CC=CC=C12)[C@@H]1CC(C2=CC=CC=C12)=O | C17H13NO
reactant | methyl amine | 2M, 5 mL | CN | CH5N
reactant | tetraethoxy silane | 1 mL | C(C)O[Si](OCC)(OCC)OCC | C8H20O4Si
reactant | hydrogen | [H][H] | H2
solvent | methanol | 10 mL | CO | CH4O
catalyst | PtO2 | 10 mg | O=[Pt]=O
product | [(1S,3R)-3-(1H-Indol-3-yl)-indan-1-yl]-methyl-amine | 66% yield | N1C=C(C2=CC=CC=C12)[C@@H]1C[C@@H](C2=CC=CC=C12)NC | C18H18N2
